US06353025B1
To a stirred solution of ethyl N-[4-(2-hydroxyethyl)-phenyl]aminoacetate (1.0 g) in dichloromethane (20 ml) were added concentrated hydrochloric acid (373 μl) and ethanol (3.0 ml) at room temperature, and a solution of tert-butyl hypochlorite (1.04 ml) in dichloromethane (6 ml) was added dropwise over 10 minutes period under ice-cooling with stirring. The mixture was stirred for 10 minutes, and the reaction mixture was concentrated in vacuo. A saturated aqueous sodium bicarbonate solution was added to the residue, and the resulting mixture was extracted with ethyl acetate. The extract was washed with brine and dried over anhydrous magnesium sulfate, and the solvent was removed in vacuo. Purification of the residue by medium pressure liquid column chromatography on silica gel (eluent: hexane/ethyl acetate=3/1) gave ethyl N-[2,6-dichloro-4-(2-hydroxyethyl)phenyl]aminoacetate (695 mg).

reactant | ethyl N-[4-(2-hydroxyethyl)-phenyl]aminoacetate | 1.0 g | OCCC1=CC=C(C=C1)NCC(=O)OCC | C12H17NO3
reactant | hydrochloric acid | 373 μl | Cl | ClH
reactant | ethanol | 3.0 ml | C(C)O | C2H6O
reactant | tert-butyl hypochlorite | 1.04 ml | ClOC(C)(C)C | C4H9ClO
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 6 ml | ClCCl | CH2Cl2
product | ethyl N-[2,6-dichloro-4-(2-hydroxyethyl)phenyl]aminoacetate | 695 mg | ClC1=C(C(=CC(=C1)CCO)Cl)NCC(=O)OCC | C12H15Cl2NO3
